US07638629B2
c) (±)-Methyl(cis)-1-(4-isopropylbenzyl)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate
Methyl(cis)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate (0.22 g), 4-isopropylbenzyl bromide (240 mg), NaI (15 mg), K2CO3 (287 mg) in DMF (2 ml) were placed in a microwave tube and the contents were heated in the microwave oven for 20 min at 150° C. The cooled mixture was dispersed between H2O and EtOAc and the organic extracts were washed with brine, dried (MgSO4) and evaporated. The crude oil was purified by chromatography on silica using 5-8% EtOAc in hexane to yield a colourless oil (260 mg, 81%) which crystallized on standing. 1H NMR (400 MHz, CDCl3) δ: 1.23 (6H, d, J 6.9), 1.71-1.81 (2H, m), 1.92 (1H, d, J 12.9), 1.97-2.04 (2H, m), 2.44-2.50 (1H, m), 2.82-2.90 (2H, m), 3.08-3.10 (1H, m), 3.25 (1H, dd, J 2.8, 11.3), 3.66 (4H, t, J 9.1), 7.14 (4H, q, J 6.3), 7.58 (4H, s); M/Z (ES+) 420 (MH+).

reactant | Methyl(cis)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate | 0.22 g | FC(C1=CC=C(C=C1)[C@@H]1NCC[C@@H](C1)C(=O)OC)(F)F | C14H16F3NO2
reactant | 4-isopropylbenzyl bromide | 240 mg | C(C)(C)C1=CC=C(CBr)C=C1 | C10H13Br
reactant | NaI | 15 mg | [Na+].[I-]
reactant | K2CO3 | 287 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | (±)-Methyl(cis)-1-(4-isopropylbenzyl)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate | 260 mg, 81% | C(C)(C)C1=CC=C(CN2[C@H](C[C@H](CC2)C(=O)OC)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C24H28F3NO2
